US07960394B2
(1) Production of t-butyl (2-methoxypyridin-3-yl)carbamate
2-methoxypyridine-3-amine (7.0 g, 56.4 mmol) and di-t-butyl dicarbonate (18.5 g, 84.6 g) were dissolved in 1,3-dioxane (20 mL), and heated under reflux for 24 hours. The solvent was evaporated off to obtain the intended, pale yellow oily compound (13.1 g).

reactant | 2-methoxypyridine-3-amine | 56.4 mmol, 7.0 g | COC1=NC=CC=C1N | C6H8N2O
reactant | di-t-butyl dicarbonate | 18.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,3-dioxane | 20 mL | O1COCCC1 | C4H8O2
product | t-butyl (2-methoxypyridin-3-yl)carbamate | COC1=NC=CC=C1NC(OC(C)(C)C)=O | C11H16N2O3
